US06174877B1
Methyl 2-(imidazo[1,5-a]pyridin-3-yl)acetate
2-(Imidazo[1,5-a]pyridin-3-yl)acetonitrile (4.65 g) was dissolved in acetic acid (26 ml). To the solution was added 50%(v/v) sulfuric acid (52 ml), and the mixture was stirred for 3 hours at 100° C., followed by distilling off acetic acid under reduced pressure. To the residue was added, in limited amounts, sodium hydrogencarbonate, and the mixture was concentrated to dryness. To the residue was added methanol (200 ml), then insolubles were filtered off. To the filtrate was added a 4N HCl ethyl acetate solution (40 ml). The mixture was stirred for 15 hours at 25° C., followed by concentration under reduced pressure. To the concentrate were added a 5% aqueous solution of sodium hydrogencarbonate (100 ml) and ethyl acetate (200 ml). The mixture was shaken and left standing to form two layers. The organic layer was dried over anhydrous magnesium sulfate and, then, concentrated to afford the title compound (1.85 g).

reactant | 2-(Imidazo[1,5-a]pyridin-3-yl)acetonitrile | 4.65 g | C=1N=C(N2C1C=CC=C2)CC#N | C9H7N3
reactant | sulfuric acid | 52 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-(imidazo[1,5-a]pyridin-3-yl)acetate | 1.85 g | C=1N=C(N2C1C=CC=C2)CC(=O)OC | C10H10N2O2
